US08389553B2
Methyl 4-({[(dimethylamino)sulfonyl]amino}methyl)benzoate
4-(aminomethyl)benzoic acid methyl ester (0.2676 g, 1.620 mmol) was dissolved in dichloromethane (15 ml). DMAP (0.0248 g, 0.203 mmol) and DIEA (0.35 ml, 2.004 mmol) were added. The solution was cooled to 0° C. Dimethylsulfamoyl chloride (0.18 ml, 1.676 mmol) was added. The reaction was allowed to stir until completion. The reaction was diluted with DCM and washed with aqueous sodium hydrogen carbonate. The aqueous layer was extracted with DCM two times. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography on silica gel, eluting with EtOAc/hexane (6-50%). MS: cal'd 273 (MH+), exp 273 (MH+).

reactant | 4-(aminomethyl)benzoic acid methyl ester | 1.620 mmol, 0.2676 g | COC(C1=CC=C(C=C1)CN)=O | C9H11NO2
reactant | DIEA | 2.004 mmol, 0.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Dimethylsulfamoyl chloride | 1.676 mmol, 0.18 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.203 mmol, 0.0248 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl 4-({[(dimethylamino)sulfonyl]amino}methyl)benzoate | CN(S(=O)(=O)NCC1=CC=C(C(=O)OC)C=C1)C | C11H16N2O4S
